US07153854B2
A mixture of 3-bromo-5-iodobenzoic aicd (5.00 g) and N,N-dimethylformamide (0.059 mL) in dichloromethane (50 mL) was added oxalyl chloride (1.47 mL) in an ice bath under a nitrogen atmosphere. After stirring for 1 hour, the volatile was evaporated off. The residue was dissolved in dichloromethane (50 mL), and to the solution was added bensyl alcohol (1.82 g) followe by triethyl amine (3.2 mL) in the ice bath. The mixture was stirred for 2 hours at room temperature. The mixture was partitioned between EtOAc and water. The organic layer was washed with water (two times), satd. NaHCO3, and brine, dried over MgSO4 and evaporated. Flash silicagel columnc hromatography (EtOAc-hexanes=1/200 to 20/200) afforded benzyl 3-bromo-5-iodobenzoate as white crystals (5.95 g).

reactant | 3-bromo-5-iodobenzoic aicd | 5.00 g | BrC=1C=C(C(=O)O)C=C(C1)I | C7H4BrIO2
reactant | N,N-dimethylformamide | 0.059 mL | CN(C=O)C | C3H7NO
reactant | oxalyl chloride | 1.47 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | benzyl 3-bromo-5-iodobenzoate | 5.95 g | BrC=1C=C(C(=O)OCC2=CC=CC=C2)C=C(C1)I | C14H10BrIO2
